US07560491B2
Compound A2: 3,5-Dimethoxy-2-nitro-benzaldehyde
The 3,5-Dimethoxybenzaldehyde (0.5 g, 3 mmol) was added to 70% nitric acid (0.88 mL, 14.44 mmol) at 0° C. in portion. After stirring for 1 hour, the reaction mixture was quenched and extracted by water and CH2Cl2. The organic layers were combined and evaporated to give a residue, which was purified by flash chromatography (EtOAc:n-hexane=1:2.5) to give the brown crystals, yield 64%. mp 104.0-104.6° C., 1H NMR (500 MHz, CDCl3) δ 3.93 (s, 3H), 3.93 (s, 3H), 6.76 (d, J=2.4 Hz), 6.96 (d, J=2.4 Hz, 1H), 9.94 (s, 1H).

reactant | 3,5-Dimethoxybenzaldehyde | 3 mmol, 0.5 g | COC=1C=C(C=O)C=C(C1)OC | C9H10O3
reactant | nitric acid | 14.44 mmol, 0.88 mL | [N+](=O)(O)[O-] | HNO3
product | 3,5-Dimethoxy-2-nitro-benzaldehyde | yield 64% | COC=1C(=C(C=O)C=C(C1)OC)[N+](=O)[O-] | C9H9NO5
